US04120974
157 g. of ethyl 3,4,7-trimethyl-2,6-nonadienecarboxylate are dissolved in 300 ml. of benzene and added dropwise while cooling with ice to a solution of 370 g. of 70% sodium bis-(methoxyethoxy)-aluminum hydride in benzene. The mixture is then stirred at 40° C. for 2 hours and subsequently worked up with water/ether as described earlier. The 3,4,7-trimethyl-2,6-nonadien-1-ol obtained boils at 79°-84° C./0.09 mmHg.

reactant | ethyl 3,4,7-trimethyl-2,6-nonadienecarboxylate | CC(=CCC(=O)OCC)C(CC=C(CC)C)C | C15H26O2
reactant | sodium bis-(methoxyethoxy)-aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | water ether | O.CCOCC
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3,4,7-trimethyl-2,6-nonadien-1-ol | CC(=CCO)C(CC=C(CC)C)C | C12H22O
